US05252426
Preparation of 4-Benzyloxyphenylhydrazine Hydrochloride (Intermediate C)
To a slurry of 4-benzyloxyaniline (250 g) and ethanol 300 ml) in 30% HCl (350 ml) and 37% HCl (150 ml) was added a solution of sodium nitrite (77 g) in water (350 ml), while maintaining the temperature between -8 and -2° C. The reaction was stirred for an additional four hours at -2° C. A solution of tin (II) chloride dihydrate (710 g) in 30% HCl (770 ml) was added slowly followed by d-gluconic acid lactone (575 g), and the resulting white suspension was cooled overnight. The crude product was collected by vacuum filtration and washed with 1 N hydrochloric acid, ether, and vacuum dried to give 248.9 g of the desired product, m.p. 173-174° C.

reactant | 4-benzyloxyaniline | 250 g | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
reactant | sodium nitrite | 77 g | N(=O)[O-].[Na+]
reactant | tin (II) chloride dihydrate | 710 g | O.O.[Sn](Cl)Cl
reactant | d-gluconic acid lactone | 575 g | C([C@@H]1[C@H]([C@@H]([C@H](C(=O)O1)O)O)O)O | C6H10O6
solvent | HCl | 350 ml | Cl | ClH
solvent | water | 350 ml | O | H2O
solvent | HCl | 770 ml | Cl | ClH
solvent | HCl | 150 ml | Cl | ClH
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 4-Benzyloxyphenylhydrazine Hydrochloride | 248.9 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NN | InChI=1S/C13H14N2O.ClH/c14-15-12-6-8-13(9-7-12)16-10-11-4-2-1-3-5-11;/h1-9,15H,10,14H2;1H
